US07220759B2
Using a known method, (R)-3-[2-(3-hydroxypyrrolidin-1-yl)ethyl]-5-methyl-2H-isoquinolin-1-one was converted to a hydrochloride to give (R)-3-[2-(3-hydroxypyrrolidin-1-yl)ethyl]-5-methyl-2H-isoquinolin-1-one hydrochloride.

reactant | (R)-3-[2-(3-hydroxypyrrolidin-1-yl)ethyl]-5-methyl-2H-isoquinolin-1-one | O[C@H]1CN(CC1)CCC=1NC(C2=CC=CC(=C2C1)C)=O | C16H20N2O2
reactant | hydrochloride | Cl | ClH
product | (R)-3-[2-(3-hydroxypyrrolidin-1-yl)ethyl]-5-methyl-2H-isoquinolin-1-one hydrochloride | Cl.O[C@H]1CN(CC1)CCC=1NC(C2=CC=CC(=C2C1)C)=O | InChI=1S/C16H20N2O2.ClH/c1-11-3-2-4-14-15(11)9-12(17-16(14)20)5-7-18-8-6-13(19)10-18;/h2-4,9,13,19H,5-8,10H2,1H3,(H,17,20);1H/t13-;/m1./s1
